US07629340B2
Cyclopropanecarboxylic acid 3-bromo-benzylamide
3-Bromo-benzylamine hydrochloride (437.3 mg, 2.0 mmol) was dissolved in dichloromethane (15 mL), and the solution was cooled to 0° C. DIEA (688.0 μL, 3.9 mmol) was then added, and the reaction was stirred at 0° C. for 5 minutes. Then cyclopropanecarbonyl chloride (180.0 μL, 2.3 mmol) was added, and the reaction was stirred at 0° C. for 20 minutes. The reaction was quenched with distilled water, and the solvents were removed. The resulting mixture was redissolved in DMF (10 mL) and purified by reverse phase HPLC to give the desired product.

reactant | 3-Bromo-benzylamine hydrochloride | 2.0 mmol, 437.3 mg | Cl.BrC=1C=C(CN)C=CC1
reactant | DIEA | 3.9 mmol, 688.0 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropanecarbonyl chloride | 2.3 mmol, 180.0 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Cyclopropanecarboxylic acid 3-bromo-benzylamide | BrC=1C=C(CNC(=O)C2CC2)C=CC1 | C11H12BrNO
